US08236792B2
(2S,4R)-2-(4-Cyclobutyl-[1,4]diazepane-1-carbonyl)-4-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl Ester
To a solution of N-Boc-trans-4-hydroxy-L-proline (1.0 g, 4.32 mmol), 1-cyclobutyl-[1,4]diazepane hydrochloride (981 mg, 4.32 mmol), EDC (869 mg, 4.54 mmol) and HOBt (583 mg, 4.32 mmol) in DMF (22 mL) was added Et3N (1.2 mL, 8.64 mmol). The solution was allowed to stir overnight at room temperature (rt). The mixture was diluted with 5% aqueous (aq.) NaHCO3 and extracted with CH2Cl2 (3×). The combined organic layers were dried and concentrated. Purification by FCC provided the desired product (897 mg, 56%). MS (ESI): mass calcd. for C19H33N3O4, 367.25; m/z found, 368.6 [M+H]+. 1H NMR (CDCl3): 4.81-4.67 (m, 1H), 4.59-4.48 (m, 1H), 3.79-3.42 (m, 6H), 2.92-2.80 (m, 1H), 2.63-2.30 (m, 4H), 2.26-2.07 (m, 2H), 2.07-1.97 (m, 3H), 1.91-1.75 (m, 4H), 1.73-1.54 (m, 2H), 1.48-1.39 (m, 9H).

reactant | N-Boc-trans-4-hydroxy-L-proline | 4.32 mmol, 1.0 g | C(=O)(OC(C)(C)C)N1[C@H](C(=O)O)C[C@H](C1)O | C10H17NO5
reactant | 1-cyclobutyl-[1,4]diazepane hydrochloride | 4.32 mmol, 981 mg | Cl.C1(CCC1)N1CCNCCC1
reactant | EDC | 4.54 mmol, 869 mg
reactant | HOBt | 4.32 mmol, 583 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Et3N | 8.64 mmol, 1.2 mL | CCN(CC)CC | C6H15N
solvent | DMF | 22 mL | CN(C)C=O | C3H7NO
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | (2S,4R)-2-(4-Cyclobutyl-[1,4]diazepane-1-carbonyl)-4-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl Ester | 897 mg, 56% | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)O)C(=O)N1CCN(CCC1)C1CCC1 | C19H33N3O4
